US05605914
To a stirred solution of 3-phthalimido-3-(3',4'-dichlorophenyl)propionic acid (1.10 g, 3.02 mmol) in 20 mL of tetrahydrofuran at room temperature under nitrogen was added carbonyldiimidazole (0.51 g, 3.17 mmol) and a catalytic amount of 4-dimethylaminopyridine. The mixture was stirred for 45 in and then concentrated ammonium hydroxide (0.21 mL, 3.2 mmol) was added. The reaction mixture was stirred for 10 minutes and then the tetrahydrofuran was removed under reduced pressure. To the resulting mixture was added 20 mL of water, a light yellow oil was formed. To the mixture was added 3 mL of ether, the mixture was stirred at room temperature for 1 hour. The resulting slurry was filtered, the solid was washed with water and air-dried to afford 0.73 g of the crude product as a white solid. The crude product was purified by flash chromatography (silica gel, hexane/CH2Cl2, 22-0% (v/v)) to afford 0.39 g (36%) of 3-phthalimido-3-(3',4'-dichlorophenyl)propionamide as a white powder: 1H NMR (DMSO-d6, 250 MHz) δ 7.83 (m, 4 H, Ar), 7.35-7.75 (m, 4 H), 6.93 (br s, 1 H), 5.72 (t, 1 H, J=8 Hz), 3.25 (dd, 1 H, J1 =8 Hz, J2 =15 Hz), 3.14 (dd, 1 H, J1 =8 Hz, J2 =15 Hz); 13C NMR (DMSO-d6) δ 170.8, 167.6, 140.2, 134.6, 131.2, 131.0, 130.7, 130.3, 129.2, 127.7, 123.2, 49.3, 36.5. Anal. Calcd for C17H12N2O3Cl2. Theoretical C, 54.69; H, 3.54; N, 7.53. Found C, 54.69; H, 3.38; N, 7.15.

reactant | 3-phthalimido-3-(3',4'-dichlorophenyl)propionic acid | 3.02 mmol, 1.10 g | C1(C=2C(C(N1C(CC(=O)O)C1=CC(=C(C=C1)Cl)Cl)=O)=CC=CC2)=O | C17H11Cl2NO4
reactant | carbonyldiimidazole | 3.17 mmol, 0.51 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonium hydroxide | 3.2 mmol, 0.21 mL | [OH-].[NH4+]
reactant | ether | 3 mL | CCOCC | C4H10O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-phthalimido-3-(3',4'-dichlorophenyl)propionamide | 0.39 g, 36% | C1(C=2C(C(N1C(CC(=O)N)C1=CC(=C(C=C1)Cl)Cl)=O)=CC=CC2)=O | C17H12Cl2N2O3
